US05068325
4y) 2-Amino-6-(3-(3-benzyloxy-phenyl)allyl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine
Prepared from 3-benzyloxy-cinnamyl chloride and 2 equivalents of 2-amino-4,5,7,8-tetrahydro-6 H-thiazolo[5,4-d]azepine in chloroform for 5 hours at 50° C. Yield: 59% of theory, Melting point: 78°-80° C. (ether).

reactant | 3-benzyloxy-cinnamyl chloride | C(C1=CC=CC=C1)OC=1C=C(C=CCCl)C=CC1 | C16H15ClO
reactant | 2-amino-4,5,7,8-tetrahydro-6 H-thiazolo[5,4-d]azepine | 2 equivalents | NC=1SC=2CCNCCC2N1 | C7H11N3S
reactant | ether | CCOCC | C4H10O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-Amino-6-(3-(3-benzyloxy-phenyl)allyl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine | Yield: 59% | NC=1SC=2CCN(CCC2N1)CC=CC1=CC(=CC=C1)OCC1=CC=CC=C1 | C23H25N3OS
